US08609656B2
Preparation of N-(3-amino-5-(trifluoromethyl)phenyl)-2,2,2-trifluoroacetamide
In dichloromethane, 370 mg (2.10 mmol) of 5-(trifluoromethyl)benzene-1,3-diamine and 0.25 ml (3.15 mmol) of pyridine were dissolved and the solution was cooled on an ice bath. To this solution, 0.293 ml (2.10 mmol) of trifluoroacetic anhydride was slowly added, and at that temperature the mixture solution was stirred for one hour. The reaction solution was poured into water and extracted with ethyl acetate and the extract was purified by silica gel column chromatography to obtain 138 mg (25%) of a pale yellow oily target product.

reactant | 5-(trifluoromethyl)benzene-1,3-diamine | 2.10 mmol, 370 mg | FC(C=1C=C(C=C(C1)N)N)(F)F | C7H7F3N2
reactant | pyridine | 3.15 mmol, 0.25 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 2.10 mmol, 0.293 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(3-amino-5-(trifluoromethyl)phenyl)-2,2,2-trifluoroacetamide | 138 mg, 25% | NC=1C=C(C=C(C1)C(F)(F)F)NC(C(F)(F)F)=O | C9H6F6N2O
